US07166733B2
A. Preparation of t-BOC-GlyGly-OH
An oven-dried 20 mL vial equipped with septum and stir bar was charged with 6 mL dioxane, Gly—Gly (1.325 g, 10.0 mmol), BOC—ON (2.714 g, 11.0 mmol), and Et3N (2.10 mL, 15 mmol). The mixture was stirred for 2 hours during which time a clear yellow solution formed. The mixture was extracted with EtOAc (20 mL) and H2O (15 mL). The aqueous layer was collected, washed with EtOAc and added to 50 mL 5% citric acid. The t-BOC-GlyGlyOH was extracted with EtOAc (200 ml) and dried over anhydrous Na2SO4. The EtOAc was removed in vacuo and triturated with hot Et2O. White crystals were collected, washed with Et2O and dried to give 1.309 g of the title compound: 1H NMR (300 MHz, DMSO-d6): δ 12.3 (bs 1H, CO2H), 8.04 (t, 1, NH), 6.98 (t, 1H, NH), 3.75 (d, 2H, CH2), 3.56 (d, 2H, CH2), and 1.38 (s, 9H, C(CH3)3).

reactant | Gly—Gly | 10.0 mmol, 1.325 g | C(C(=O)NCC(=O)O)N | C4H8N2O3
reactant | BOC—ON | 11.0 mmol, 2.714 g | CC(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | Et3N | 15 mmol, 2.10 mL | CCN(CC)CC | C6H15N
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | t-BOC-GlyGly-OH | 1.309 g | N(CC(=O)NCC(=O)O)C(=O)OC(C)(C)C | C9H16N2O5
